US06034127
f) 2-Chlorobenzenesulfonic acid 3-[(1-acetimidoylpiperidin-4-yl)methoxy]-5-methylphenyl ester hydrochloride
Triethylamine (0.5 mL) and ethyl acetimidate hydrochloride (247 mg, 2.0 mmol) were added to a solution of 2-chlorobenzenesulfonic acid 3-[(piperidin-4-yl)methoxy]-5-methylphenyl ester (396 mg, 1.0 mmol), as prepared in the preceding step, in N,N-dimethylformamide (10 mL). The reaction mixture was stirred at room temperature overnight. The N,N-dimethylformamide was removed in vacuo and the residue partitioned between methylene chloride (200 mL) and 10% K2CO3 (50 mL). The organic phase was washed with 10% K2CO3 (2×50 mL) and dried over K2CO3. The solvent was removed in vacuo, HCl-methanol (30 mL) was added, and the solution was concentrated in vacuo. The residue was crystallized from methanol-ethyl acetate to give the title compound as white crystals (405 mg, 86%). 1H-NMR (300 MHz, DMSO-d6) δ 1.30 (m, 2H), 1.82 (d, 2H, J=7.0 Hz), 2.05 (m, 1H), 2.20 (s, 3H), 2.29 (s, 3H), 3.16 (m, 2H), 3.77 (d, 2H, J=3.0 Hz), 3.92 (d, 1H, J=6.5 Hz), 4.17 (d, 1 H J=6.5 Hz), 6.46 (d, 1H, J=2.5 Hz), 6.49 (s, 1H), 7.59 (t, 1 H. J=8.0 Hz), 7.87 (m, 2H), 7.95 (d, 1H, J=8.0 Hz), 8.77 (br s, 1H), and 9.35 (br s, 1H). Mass spectrum MALDI-TOF, sinapinic acid matrix) calcd. for C21H25N2O4SCl: 437.1 (M+H). Found: 436.8.

reactant | Triethylamine | 0.5 mL | C(C)N(CC)CC | C6H15N
reactant | ethyl acetimidate hydrochloride | 2.0 mmol, 247 mg | Cl.C(C)(OCC)=N
reactant | 2-chlorobenzenesulfonic acid 3-[(piperidin-4-yl)methoxy]-5-methylphenyl ester | 1.0 mmol, 396 mg | N1CCC(CC1)COC=1C=C(C=C(C1)C)OS(=O)(=O)C1=C(C=CC=C1)Cl | C19H22ClNO4S
solvent | N,N-dimethylformamide | 10 mL | CN(C=O)C | C3H7NO
product | 2-Chlorobenzenesulfonic acid 3-[(1-acetimidoylpiperidin-4-yl)methoxy]-5-methylphenyl ester hydrochloride | 405 mg, 86% | Cl.C(C)(=N)N1CCC(CC1)COC=1C=C(C=C(C1)C)OS(=O)(=O)C1=C(C=CC=C1)Cl | InChI=1S/C21H25ClN2O4S.ClH/c1-15-11-18(27-14-17-7-9-24(10-8-17)16(2)23)13-19(12-15)28-29(25,26)21-6-4-3-5-20(21)22;/h3-6,11-13,17,23H,7-10,14H2,1-2H3;1H
